US08304419B2
Step A: 2-butyl-4-chloro-1H-imidazole-5-carboxylic acid
A solution of sodium chlorite (2.0 g, 21.6 mmol) and sodium dihydrogen phosphate monohydrate (1.8 g, 12.9 mmol) in water (4.8 mL) was added to a stirred solution of 4-chloro-2-butyl-1H-imidazole-5-carbaldehyde (0.400 g, 2.1 mmol), 2-methyl-2-butene (13.4 mL of a 2M solution in THF, 26.8 mmol), and tert-butanol (1.6 mL) in THF (6.7 mL). The reaction mixture was stirred at RT for 12 h. The aqueous phase was separated and extracted with EtOAc (4×40 mL). The combined extracts were dried (Na2SO4), filtered, concentrated and the residue was triturated with diethyl ether to provide the title compound (0.411 g, 95%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 12.99 (br. s., 1H), 12.88, (br. s., 1H), 2.58 (t, 2H), 1.59 (quint, 2 H), 1.20-1.31 (sex, 2H), 0.87 (t, 3H). ES-LCMS: m/z 203.1 (M+H).

reactant | sodium chlorite | 21.6 mmol, 2.0 g | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogen phosphate monohydrate | 12.9 mmol, 1.8 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | 4-chloro-2-butyl-1H-imidazole-5-carbaldehyde | 2.1 mmol, 0.400 g | ClC=1N=C(NC1C=O)CCCC | C8H11ClN2O
reactant | 2-methyl-2-butene | CC(C)=CC | C5H10
solvent | water | 4.8 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 6.7 mL | C1CCOC1 | C4H8O
solvent | tert-butanol | 1.6 mL | C(C)(C)(C)O | C4H10O
product | 2-butyl-4-chloro-1H-imidazole-5-carboxylic acid | 0.411 g, 95% | C(CCC)C=1NC(=C(N1)Cl)C(=O)O | C8H11ClN2O2
